US04778912
2-(Benzyloxy)-3-(octadecyloxy)propyl 8-trimethylammoniooctyl phosphate
2.61 g (6.0 mmole) of 2-benzyloxy-3-octadecyloxypropanol was dissolved in 20 ml of chloroform freed of ethanol, and 3.03 g (30.0 mmole, 5.0 eq) of dry triethylamine was added to the mixture with stirring under ice-cooling. Then, 970 mg (6.3 mmole, 1.05 eq) of phosphorus oxychloride dissolved in 40 ml of chloroform freed of ethanol was added to the mixture. The resulting mixture was stirred at 0° C. for 30 minutes and at room temperature for 1 hour. Then, the mixture was cooled to 0° C. and 2.80 g (7.8 mmole, 1.3 eq) of 8-trimethylammoniooctanol monotosylate suspended in 60 ml of dry pyridine was dropwise added thereto over a period of 20 minutes. The mixture was stirred at 0° C. for 1 hour and at room temperature for 3 days. 50 ml of an aqueous solution saturated with sodium hydrogencarbonate was added the reaction mixture, which was concentrated to dryness under reduced pressure. The residue was purified by column chromatography on Amberlite resin (30 ml of IR-120, 15 ml of IR-410; eluent: 95% tetrahydrofuran).

reactant | 2-benzyloxy-3-octadecyloxypropanol | 6.0 mmole, 2.61 g | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCCCC | C28H50O3
reactant | triethylamine | 30.0 mmole, 3.03 g, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 6.3 mmole, 970 mg, 1.05 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-trimethylammoniooctanol monotosylate | 7.8 mmole, 2.80 g, 1.3 eq | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCC[N+](C)(C)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 2-(Benzyloxy)-3-(octadecyloxy)propyl 8-trimethylammoniooctyl phosphate | P(=O)(OCC(COCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)(OCCCCCCCC[N+](C)(C)C)[O-] | C39H74NO6P
